US07163937B2
Preparation B6, Step 4: To a solution of methyl 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoate (2.7 g, 7.7 mmol) in 55 ml of THF was added lithium hydroxide (0.97 g, 23.1 mmol) in 55 ml of water and stirred at RT over night. The reaction mixture was acidified with 1.5N HCl and extracted with ethyl acetate. The organic layer was washed with water, brine and concentrated to give 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoic acid (2 g) as white solid. 1H NMR (DMSO-d6, 400 MHz) δ 7.77 (m, 2H), 8.18 (s, 1H). MS found: (M−H)−=336.

reactant | methyl 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoate | 7.7 mmol, 2.7 g | FC(C=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C(F)(F)F)(F)F | C10H7F6NO4S
reactant | lithium hydroxide | 23.1 mmol, 0.97 g | [OH-].[Li+]
reactant | HCl | 1.5N | Cl | ClH
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | water | 55 ml | O | H2O
product | 5-(trifluoromethyl)-2-(trifluoromethylsulfonamido)benzoic acid | 2 g | FC(C=1C=CC(=C(C(=O)O)C1)NS(=O)(=O)C(F)(F)F)(F)F | C9H5F6NO4S
